Name:  ___         Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right shoulder and neck pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with HTN and known right subclavian aneurysm  presenting
with right shoulder and neck pain inferior to the angle of the
mandible. She does report that she does have pain with movement
but is not necessarily made worse. The pain is made worse with
swallowing and with arm movement. She also is reporting numbness
and paresthesias of the forearm and hand. The sensory changes
happen intermittently but the pain has been persistent for the
past day. She denies any recent trauma to the area. She also
denies any pain with over use or any activities that involve
positioning her arm above her head
 
Past Medical History:
HTN
 
Social History:
___
Family History:
no family history of aneurysmal disease
 
Physical Exam:
Admission Physical Exam:
PE: 95.2 72 182/106 18 10%RA
Gen: comfortable A&Ox3
HEENT: pulsatile mass over the anterior border of the right SCM.
Tender over SCM, no overlying skin changes. No bruits 
appreciated
___: RRR, 
Pulm: Clear bilaterally
Ext: Slight pain passive movement of the arm. No point
tenderness, Negative Adson's sign. No cyanosis, capillary refill
adequate.

Discharge Physical Exam:
98.6T 141 / 93BP 65P 16R99%Ra
Gen: A&Ox3 NAD
Neck: pulsatile mass over anterior border of right SCM. No 
bruits
___: RRR
Pulm: no respiratory distress

 
Pertinent Results:
Admission Labs:

___ 06:32PM   ___ PTT-33.1 ___
___ 06:32PM   WBC-5.8 RBC-4.09 HGB-12.4 HCT-37.2 MCV-91 
MCH-30.3 MCHC-33.3 RDW-12.8 RDWSD-42.5
___ 06:32PM   cTropnT-<0.01
___ 06:32PM   GLUCOSE-93 UREA N-22* CREAT-0.8 SODIUM-143 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-24 ANION GAP-17*

Discharge labs:

___ 06:00AM BLOOD WBC-3.9* RBC-3.93 Hgb-12.3 Hct-35.2 
MCV-90 MCH-31.3 MCHC-34.9 RDW-12.8 RDWSD-42.2 Plt ___
___ 06:00AM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-91 UreaN-19 Creat-0.8 Na-143 
K-4.0 Cl-100 HCO3-26 AnGap-17*
 
Brief Hospital Course:
The patient was admitted to the vascular surgery inpatient 
service for evaluation of a 1.4cm right subclavian artery 
aneurysm seen on CTA. The patient was experiencing right 
shoulder and neck pain as well as numbness and paresthesia of 
the right hand. The following day, the patient's case was 
reviewed by the vascular surgery team and it was determined that 
the aneurysm was unlikely to be the cause of her symptoms. The 
patient was discharged to home with plans to follow up with her 
PCP for MRI ___ spine to evaluate other sources for her symptoms. 
At the time of discharge, the patient's vital signs were stable. 
She was tolerating a regular diet, ambulating, and urinating 
spontaneously. The discharge plan was discussed with the patient 
who verbalized understanding and agreement with the plan.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 

 
Discharge Medications:
1.  Atenolol 50 mg PO DAILY  
2.  Hydrochlorothiazide 25 mg PO DAILY  
3.  Losartan Potassium 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
R subclavian aneurysm 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
Dear ___,
You were admitted to ___ ___ ___ and 
underwent CT Angiogram. You have now ready to be discharged. 
Please follow up with your PCP for ongoing care and MRI. If you 
have any questions please call our office at ___. 

 
Followup Instructions:
___